US05599526
A gel vehicle containing about 25-28% water (apart from water provided as humectant solvent), about 10-12% of 99.5% glycerine solution and about 30-35% of 70% sorbitol solution can readily provide a refractive index of about 1.43 to 1.46 and permit formation of a clear gel dentifrice in which the refractive index of the polishing agent is about 1.41 to 1.47 and within 0.02 of the refractive index of the liquid vehicle.

reactant | water | O | H2O
reactant | glycerine | OCC(O)CO | C3H8O3
product | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
